US08236835B2
Synthesis of N-benzyl-2-(3-((5-ethylthiophen-2-yl)methylene)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as required to use 5-ethylthiophene-2-carbaldehyde in place of benzaldehyde to react with N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 14% yield: mp 171-172° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.05 (s, 1H), 7.42-7.22 (m, 5H), 7.16 (d, J=3.7 Hz, 1H), 6.83 (dd, J=0.7, 3.7 Hz, 1H), 5.98 (t, J=5.5 Hz, 1H), 4.57 (d, J=5.5 Hz, 2H), 4.32-4.25 (m, 2H), 2.93-2.81 (m, 4H), 2.65 (s, 3H), 2.15-2.02 (m, 2H), 1.32 (t, J=7.5 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 164.8, 162.7, 157.5, 153.7, 152.4, 137.9, 136.4, 133.6, 132.9, 128.8, 127.9, 127.6, 124.5, 122.7, 119.5, 46.9, 44.1, 25.9, 23.8, 21.9, 17.4, 15.7; MS (ES+) m/z 452.1 (M+1).

reactant | 5-ethylthiophene-2-carbaldehyde | C(C)C1=CC=C(S1)C=O | C7H8OS
reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
product | N-benzyl-2-(3-((5-ethylthiophen-2-yl)methylene)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 14% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)=CC=1SC(=CC1)CC)=O)C | C24H25N3O2S2
